US07888349B2
mCPBA (3.89 g of 77% pure material, 17.36 mmol) was added to a solution of tert-butyl 11-{[tert-butyl(dimethyl)silyl]oxy}-11,12-dihydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(10H)-carboxylate (4.07 g, 8.68 mol chloroform, and the reaction was stirred for 30 minutes at ambient temperature. Additional mCPBA (0.5 equivalent) was added, and the reaction was stirred for four hours. Ammonium hydroxide (50 mL) was added with vigorous stirring, and after ten minutes, p-toluenesulfonyl chloride (1.82 g, 9.55 mmol) was added. The reaction was stirred overnight at ambient temperature and then concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel (eluting sequentially with 98.5:1:0.5 and 89:10:1 dichloromethane:methanol:ammonium hydroxide), and the resulting product was dried under high vacuum to provide 2.25 g of tert-butyl 6-amino-11-{[tert-butyl(dimethyl)silyl]oxy}-11,12-dihydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(10H)-carboxylate.

reactant | mCPBA | 17.36 mmol, 3.89 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | tert-butyl 11-{[tert-butyl(dimethyl)silyl]oxy}-11,12-dihydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(10H)-carboxylate | [Si](C)(C)(C(C)(C)C)OC1CN(CC=2N(C3=C(C=NC4=CC=CC=C34)N2)C1)C(=O)OC(C)(C)C | C25H36N4O3Si
reactant | chloroform | 8.68 mol, 4.07 g | C(Cl)(Cl)Cl | CHCl3
reactant | mCPBA | 0.5 equivalent | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | p-toluenesulfonyl chloride | 9.55 mmol, 1.82 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | Ammonium hydroxide | 50 mL | [OH-].[NH4+]
product | tert-butyl 6-amino-11-{[tert-butyl(dimethyl)silyl]oxy}-11,12-dihydro-8H-[1,4]diazepino[1′,2′:1,2]imidazo[4,5-c]quinoline-9(10H)-carboxylate | 2.25 g | NC1=NC2=CC=CC=C2C2=C1N=C1N2CC(CN(C1)C(=O)OC(C)(C)C)O[Si](C)(C)C(C)(C)C | C25H37N5O3Si
